US05620981
4-Methylamino-2-methylsulfanyl-5-pyrimidine-methanol (2.40 g, 13.0 mmol) in 7 mL of acetic acid was added to a solution of sodium dichromate-dihydrate (1.30 g, 4.4 mmol) in 6 mL of acetic acid. After 2 hours at room temperature, additional sodium dichromate-dihydrate (0.3 g, 1.0 mmol) in 1 mL of acetic acid was added. After a total reaction time of 3.5 hours, the bright yellow solid was removed by filtration. Water (30 mL) was added to the filtrate, followed by aqueous ammonium hydroxide until basic (pH 9.0). The mixture was cooled in the refrigerator for 30 minutes. The precipitate was collected and dissolved in ethyl acetate, and the solution was dried over MgSO4. Filtration and concentration in vacuo gave 0.72 g (30%) of 4-methylamino-2-methylsulfanyl-5-pyrimidinecarboxaldehyde, mp 99°-101° C.

reactant | 4-Methylamino-2-methylsulfanyl-5-pyrimidine-methanol | 13.0 mmol, 2.40 g | CNC1=NC(=NC=C1CO)SC | C7H11N3OS
reactant | sodium dichromate-dihydrate | 4.4 mmol, 1.30 g | O.O.[Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
reactant | sodium dichromate-dihydrate | 1.0 mmol, 0.3 g | O.O.[Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
solvent | acetic acid | 7 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 4-methylamino-2-methylsulfanyl-5-pyrimidinecarboxaldehyde | 0.72 g, 30% | CNC1=NC(=NC=C1C=O)SC | C7H9N3OS
